US08497275B2
Part A. Preparation of (S)-2-(tert-butoxycarbonylamino)-2-(4-hydroxyphenyl)acetic acid
To a solution of (S)-2-amino-2-(4-hydroxyphenyl)acetic acid (2.00 g, 11.96 mmol) and Et3N (1.67 mL, 11.96 mmol) in THF (30 mL) and H2O (30 mL) at 0° C. was added di-tert-butyl dicarbonate (2.61 g. 11.96 mmol). The solution was stirred at 0° C. for 18 hours and then concentrated in vacuo. The residue was diluted with ethyl acetate and washed with 5% H3PO4 aqueous solution. The organic layer was dried over sodium sulfate, filtered, and concentrated in vacuo to afford the title compound as a light colored solid. The crude material was taken on directly to the next step. (2.85 g, 86% yield) MS (ESI+) m/z=290 (M+Na)+.

reactant | (S)-2-amino-2-(4-hydroxyphenyl)acetic acid | 11.96 mmol, 2.00 g | N[C@H](C(=O)O)C1=CC=C(C=C1)O | C8H9NO3
reactant | Et3N | 11.96 mmol, 1.67 mL | CCN(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 11.96 mmol, 2.61 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | H2O | 30 mL | O | H2O
product | (S)-2-(tert-butoxycarbonylamino)-2-(4-hydroxyphenyl)acetic acid | 86% yield | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)C1=CC=C(C=C1)O | C13H17NO5
